US06673800B2
Preparation of 1-(4-Fluorophenyl)4-{3-[3-(3-phenoxyphenyl)4,5-dihydroisoxazol-5-yl]propyl}piperazine
3-(3-(2-Phenoxyphenyl)-4,5-dihydroisoxazol-5-yl)propanal (38.0 mg, 0.122 mmol), 1-(4-fluorophenyl)piperazine (20.0 mg, 0.111 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (70.5 mg, 0.333mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 28.7 mg (56.3%) of the target compound was obtained.

reactant | 3-(3-(2-Phenoxyphenyl)-4,5-dihydroisoxazol-5-yl)propanal | 0.122 mmol, 38.0 mg | O(C1=CC=CC=C1)C1=C(C=CC=C1)C1=NOC(C1)CCC=O | C18H17NO3
reactant | 1-(4-fluorophenyl)piperazine | 0.111 mmol, 20.0 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.333mmol, 70.5 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluorophenyl)4-{3-[3-(3-phenoxyphenyl)4,5-dihydroisoxazol-5-yl]propyl}piperazine | 28.7 mg, 56.3% | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1CC(=NO1)C1=CC(=CC=C1)OC1=CC=CC=C1 | C28H30FN3O2
